US07741484B2
5-(5-Iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine A mixture of 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (240 g, 0.60 mol) in 1.2 L of isopropanol was heated to 70° C. An aqueous solution of 6N HCl was added dropwise to the reaction mixture, and the slurry was heated to 75° C. for two hours. The slurry was cooled to 20° C. and aged. Precipitated solids were collected by filtration, washed with cold isopropanol, and dried in a vacuum oven (50° C., 24 inches Hg) to give 232 g of -(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine hydrochloride salt, 98% yield: m.p. 262.0-263.0 degrees C.; 1HNMR (DMSO) δ=1.2 (d, 6H), 3.1 (m, 1H), 3.85 (s, 3H), 6.95 (s, 1H), 7.25 (s, 1H), 7.45 (s, 1H), 7.6 (s, 2H), 8.25 (s, 1H), 8.6 (s, 1H), 11.9 (s, 1H).

reactant | 5-(5-Iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
reactant | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 0.60 mol, 240 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
reactant | HCl | 6N | Cl | ClH
solvent | isopropanol | 1.2 L | C(C)(C)O | C3H8O
product | (5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine hydrochloride salt | 98% yield | Cl.IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | InChI=1S/C14H17IN4O2.ClH/c1-7(2)8-4-11(20-3)9(15)5-10(8)21-12-6-18-14(17)19-13(12)16;/h4-7H,1-3H3,(H4,16,17,18,19);1H
